US07141596B2
N′-(tert-butyl)-N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea
5-[4-([2-(4-Phenoxyphenyl)ethyl]aminomethyl)phenyl]isothiazolidin-3-one 1,1-dioxide trifluoroacetate (6.5 mg, 0.012 mmol) was dissolved in N-methyl-pyrrolidinone (100 μL) with N,N-diisopropylethylamine (10 μL). A solution of t-butylisocyanate in N-methyl-pyrrolidinone (100 μL) was added and the mixture stirred for 1 h. The mixture was purified by preparative LCMS to give the desired product. White solid, (6.5 mg, 100%). LCMS found for C22H21N2O5S (M+H)+: m/z=536.

reactant | 5-[4-([2-(4-Phenoxyphenyl)ethyl]aminomethyl)phenyl]isothiazolidin-3-one 1,1-dioxide trifluoroacetate | 0.012 mmol, 6.5 mg | FC(C(=O)O)(F)F.O(C1=CC=CC=C1)C1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O
reactant | t-butylisocyanate | C(C)(C)(C)N=C=O | C5H9NO
solvent | N-methyl-pyrrolidinone | 100 μL | CN1C(CCC1)=O | C5H9NO
solvent | N,N-diisopropylethylamine | 10 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methyl-pyrrolidinone | 100 μL | CN1C(CCC1)=O | C5H9NO
product | N′-(tert-butyl)-N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea | C(C)(C)(C)NC(N(CCC1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O)=O | C29H33N3O5S
